US07402608B2
3-{(4-Methyl-cyclohexanecarbonyl)-[4-(4-nitro-benzoyloxy)-cyclohexyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester (44 mg, 0.073 mmol) was dissolved in a 4:1 mixture of dioxane:H2O (1 ml) and then LiOH 1N (365 ul, 0.365 mmol) was added. After 4 hours of stirring at room temperature, solvents were removed and then partitioned between 5 ml of H2O acidified to pH 4 and 5 ml of EtOAc. The organic layer was separated and the aqueous phase was washed twice with ethyl acetate (2×5 mL). The combined ethyl acetate layer was dried (Na2SO4) and concentrated. The residue was purified by preparative chromatography (10% MeOH/CH2Cl2) to obtain 15 mg (47%) of 3-[(4-Hydroxy-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid.

reactant | 3-{(4-Methyl-cyclohexanecarbonyl)-[4-(4-nitro-benzoyloxy)-cyclohexyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.073 mmol, 44 mg | COC(=O)C=1SC(=CC1N(C1CCC(CC1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C33H36N2O7S
reactant | H2O | 1 ml | O | H2O
reactant | LiOH | 0.365 mmol, 1N, 365 ul | [Li+].[OH-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[(4-Hydroxy-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 15 mg, 47% | OC1CCC(CC1)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(=O)C1CCC(CC1)C | C25H31NO4S
